US05723479
In the same manner as in Example 13, 3-[5-(5-methyl-2-phenyl-4-oxazolylmethoxy)-2-benzofuranyl]propanol was mesylated and then reacted with sodium cyanide to yield 2-(3-cyanopropyl)-5-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzofuran (yield 80%), which was then recrystallized from acetone-isopropyl ether to yield colorless prisms having a melting point of 114° to 115° C.

reactant | 3-[5-(5-methyl-2-phenyl-4-oxazolylmethoxy)-2-benzofuranyl]propanol | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=CC2=C(C=C(O2)CCCO)C1 | C22H21NO4
reactant | sodium cyanide | [C-]#N.[Na+]
product | 2-(3-cyanopropyl)-5-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzofuran | yield 80% | C(#N)CCCC=1OC2=C(C1)C=C(C=C2)OCC=2N=C(OC2C)C2=CC=CC=C2 | C23H20N2O3
